Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
? clinda check pt record / vancomycin
 
Attending: ___.
 
Chief Complaint:
neutropenia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with asthma who was
sent by PCP to ___ for evaluation of neutropenia and
thrombocytopenia.

She was in her usual state of health until three days before
presenting to the PCP. At that time she started experiencing
fever (Tmax 101.4), chills and HA. The HA is mild, intermittent,
localized to L temporal, and responsive to ibuprofen. She also
had drenching sweats at night and in the morning, which did not
occur in the afternoon. She thought that it was a viral 
infection
and did not seek medical attention. On ___, she developed a
recurrent rash in her LUE and her symptoms persisted. Thus, she
visited her PCP. Labs at the PCP office showed neutropenia and
thrombocytopenia. Thus, she was referred to ___ ___. 

In the ___, she was not in distress. She denied easy bruising, 
gum
bleeding, abnormal menses (has menses now). She was seen by
heme-onc. She was given: one dose of IV vancomycin 1500mg and 3
doses of IV cefepime 2g; PO diphenhydramine 25mg; 2 doses of PO
acetaminophen 1000mg.

Currently, she is feeling better than past couple days, with 
main
sx of fatigue and mild HA. She denies cough, aches, post-nasal
drip. She denies any recent travel. She did spend Superbowl
___ around a lot of people at ___. Her only sick contact
is her mother who had a mild cold last week. No interaction with
young children. Only pets interactions are dogs. She does eat
meat. 

She denies any history of joint swelling or joint pain. She has
not noticed any swollen lymph nodes.

In terms of her rash, it first developed ___ years ago. Her PCP
biopsied it and referred her to ___ dermatology, who ___
psoriasis and gave topical steroids not to be used more than 8d
in a row. It recurs intermittently in the same location. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

Decreased appetite x3 days.
Decreased BMs x2 days (last BM yesterday, small, formed, brown).
 
Past Medical History:
Recurrent ear infections as an infant
Appendectomy at age ___
"Blood poisoning" at age ___ after fake gold earring punctured
skin. Hospitalized for 1 week.
Cellulitis of face after root canal at age ___.
All childhood vaccines were given.
___: internal fixation of hallux abductus, R ___ MTP
 
Social History:
___
Family History:
Maternal grandfather: lung CA
___ uncle: astrocytoma
maternal uncle: CA unknown
___ grandmother: psoriasis
___ grandfather: CA unknown

 
Physical Exam:
Admission EXAM
GENERAL: Alert and in no apparent distress, no cervical,
supraclavicular or axillary LAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. No hepatomegaly or splenomegaly.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Non-tender, non-pruritic warm erythematous patch in
4cm-wide band around LUE. No spider angiomas or other stigmata 
of
liver dz.
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs, sensation to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam:
Vitals: temp 98.1; BP 132/85; HR 68; RR 18; O2 99% RA
Gen: young woman laying comfortably in bed with mother nearby, 
NAD
HEENT: EOMI, ___, MMM
Lungs: CTAB
Heart: RRR, S1 and S2
Abdomen: soft, NT, ND, +BS
Ext: warm, well perfused, no ___ edema
Skin: non-pruritic, warm, non-blanching, erythematous patch in 
4cm-wide band around LUE, somewhat rough on palpitation
Psych: normal mood and affect
Neuro: AOx3, no focal deficits

 
Pertinent Results:
Admission Labs:

___ 05:35PM BLOOD WBC-1.1* RBC-4.30 Hgb-12.8 Hct-37.1 
MCV-86 MCH-29.8 MCHC-34.5 RDW-12.3 RDWSD-38.9 Plt Ct-89*
___ 05:35PM BLOOD Neuts-37 Bands-16* ___ Monos-9 
Eos-0* Baso-0 AbsNeut-0.58* AbsLymp-0.42* AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.00*
___ 05:35PM BLOOD ___ PTT-23.7* ___
___ 05:35PM BLOOD ___ 05:35PM BLOOD Glucose-101* UreaN-7 Creat-0.6 Na-141 
K-3.9 Cl-102 HCO3-24 AnGap-15
___ 05:35PM BLOOD ALT-46* AST-54* LD(LDH)-264* AlkPhos-75 
TotBili-0.7
___ 05:35PM BLOOD HBsAg-NEG HBsAb-POS IgM HBc-NEG
___ 05:35PM BLOOD HCV Ab-NEG

Discharge Labs:

___ 05:40AM BLOOD WBC-2.4* RBC-4.11 Hgb-11.9 Hct-35.6 
MCV-87 MCH-29.0 MCHC-33.4 RDW-12.4 RDWSD-39.4 Plt ___
___ 05:40AM BLOOD Neuts-67 ___ Monos-8 Eos-0* Baso-0 
AbsNeut-1.61 AbsLymp-0.60* AbsMono-0.19* AbsEos-0.00* 
AbsBaso-0.00*
___ 05:40AM BLOOD Parst S-NEGATIVE FOR INTRACELLULUAR AND 
EXTRACELLULA FORMS
___ 05:40AM BLOOD Plt Smr-LOW* Plt ___
___ 05:40AM BLOOD Glucose-113* UreaN-6 Creat-0.7 Na-137 
K-3.9 Cl-99 HCO3-26 AnGap-12
___ 05:40AM BLOOD ALT-181* AST-218* AlkPhos-76 TotBili-0.5

Imaging:
CXR ___:   
No acute cardiopulmonary process. 

RUQ US ___:   
1. Echogenic liver with 2.1 cm hepatic cyst.  
2. Prominent common bile duct without intrahepatic biliary 
dilatation. 

 
Brief Hospital Course:
Ms. ___ is a ___ with asthma who p/w acute onset of 
non-tender erythematous patch of LUE, fever and night sweats, 
found to have neutropenia and thrombocytopenia c/f acute infxn 
vs hematologic malignancy.

ACUTE/ACTIVE PROBLEMS:
#SIRS
#Severe neutropenia: She presented with ___ SIRS criteria 
(fever, leukopenia) with no clear source of infection. Found to 
be neutropenic with ANC <500 during admission. She was started 
empirically on anti-psuedomonal agent with cefepime.  
Differential for neutropenia is broad including but not limited 
to infection, autoimmune, malignancy, nutritional. Folate and 
B12 were WNL. Hematology consulted and reviewed blood smear, no 
blasts appreciated or evidence of myeloid maturation. 
Transitiently showed elevated lymphocyte count concerning for 
possible viral infection. FISH analaysis negative for PML/RARA. 
Tissue immunophenotyping was pending on discharge. No obvious 
autoimmune disease though does have LUE rash which has been 
previously diagnosed as psoriasis. No joint aches and given 
symptoms improved without steroids or other immune modulators 
suspect less likely. ___ was pending on disscharge. Infectious 
work up was unremarkable and included urine culture ___ that 
showed mixed bacterial flora, blood culture ___ showed NGTD. RUQ 
US and CXR with no signs of infection. HIV, HCV, CMV were 
negative. EBV consistent with past infection. Flu swab was 
negative. Blood smear negative for parasites. Low likelihood for 
tick-borne disease but ehrlichosis and babesia antibodies 
pending on discharge. Parvovirus antibodies pending on 
discharge. Hematology was consulted and based on above work up 
felt most likely symptoms related to underlying viral infection. 
They did not feel she required ongoing hematology outpatient 
evaluation. As such she was not discharged on further 
anitbiotics. She remained afebrile since admission >48hrs. ___ 
was uptrending on discharge with ANC >1500. She reports feeling 
back to baseline with no further symptoms so was discharge home.

#Thrombocytopenia: Most likely due to BM "stunning" I/s/o acute 
infxn. Lack of splenomegaly suggests against sequestration. Nl 
H/H, fibrinogen, and bilirubin suggest against platelet 
destruction process. No schistocytes seen on smear. B12 and 
folate WNL. Work up as noted above. Platelets were uptrending on 
discharge to 122. 

#Transaminitis: Noted to have mild transamanitis with no 
abdominal pain on exam. RUQ US showed echogenic liver with 2.1 
cm hepatic cyst with no intrahepatic biliary dilation. HCV 
negative and HBV immune. LFTs were uptrending on discharge but 
remained asymptomatic. Possible may be related to above process 
or drug toxicity to cefepime, which was d/c on discharge. 
Further work up was pending on discharge including Hepatitis A 
serology, ___, anti-smooth muscle antibodies,ALKM antibody, 
parvovirus, and CPK. Could consider further evaluation with 
ceruloplasmin depending on above work up. Consider repeat LFTs 
in a few days to ensure downtrending.

CHRONIC/STABLE PROBLEMS:
#Asthma: No signs of acute exacerbation

Transitional Issues:
[ ] consider repeat CBC and LFTs in a few days
[ ] consider referral to GI if LFTs not improving and consider 
sending ceruloplasmin
[ ] f/u with above pending w/u

Greater than 30 min spent on discharge planning

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. clindamycin phosphate 1 Appl TP DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
2.  clindamycin phosphate 1 Appl TP DAILY  
3.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
neutropenic fever
viral infection
transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fevers and low white blood cell count. 
You were seen by hematology and had extensive workup performed. 
Your symptoms were felt to be from underlying viral infection. 
Your symptoms resolved and your counts improved so you were 
discharged home. Please follow up with your PCP and obtain 
repeat blood work (CBC, LFTs) over the next few days.

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___